### PR TITLE
Moving some more lemmas and definitions + generalizing lemmas

### PR DESCRIPTION
**Pull request by dwRchyngqxs**

### CODE REVIEW

**Comment by eponier** [comment]
@dwRchyngqxs  Could you rebase on top of the latest main, please?

**Comment by vbgl** [comment]
Apologies for closing the PR by mistake.

File: proofs/lang/values.v [hunk 1]
```diff
@@ -23,96 +23,177 @@ Variant value : Type :=
...
+  (sz ≤ sz')%CMP -> value_uincl (Vword (zero_extend sz w')) (Vword w').
+Proof. exact: word_uincl_zero_ext. Qed.
+
+Lemma value_uincl_undef v ty h :
+  value_uincl v (Vundef ty h) -> exists ty' h', v = Vundef ty' h'.
+Proof. by case: v => //; eauto. Qed.
+
+Lemma value_uincl_is_defined x y :
+  value_uincl x y → is_defined x → is_defined y.
+Proof. by case: y x => // ?? []. Qed. *)
```
Comment (vbgl) [inline proofs/lang/values.v:150]: Why are those lemmas commented away? It might be better to just remove them.

Comment (eponier) [reply proofs/lang/values.v:150]: ping

**Comment by vbgl** [comment]
Please rebase & fix the proofs…

File: proofs/lang/values.v (hunk 1 above)
Comment (vbgl) [reply proofs/lang/values.v:150]: Please fix this.

**Review by bgregoir — COMMENTED** [review]
All checks pass now, are we ready ?

**Comment by vbgl** [comment]
No we are not.

**Comment by eponier** [comment]
CI green and comments addressed, I guess!

**Review by vbgl — APPROVED** [review]
Merci.
